US07109229B2
(a) (7-Bromo-1H-indol-3-yl)-oxo-acetic acid methyl ester
Oxalyl chloride (1.8 mL, 20.7 mmol) was added dropwise to a solution of 7-bromoindole (3.65 g, 18.6 mmol) in Et2O (100 mL) cooled in an ice bath. After the addition was complete, the ice bath was removed and the mixture was allowed to warm to room temperature and stirred for 8 h. The mixture was then cooled in a dry ice-acetone bath and a 25% by wt solution of sodium methoxide in methanol (9.5 mL, 41.8 mmol) added dropwise over 5 min. The suspension was allowed to warm to room temperature affording a yellow suspension. After stirring 1 h at rt, the suspension was treated with water and the mixture poured into EtOAc. The EtOAc solution was separated and washed with pH 7.0 buffer and brine, dried (MgSO4) and concentrated to ˜75 mL. The solution was diluted with Et2O and allowed to stand. Filtration afforded the title compound as pale yellow crystals (0.61 g, 12%). Concentration of the mother liquor to a slurry followed by addition of a small amount of Et2O (20 mL) and filtration afforded a second crop (2.33 g, 44%). 1H NMR (400 MHz, DMSO-d6) 12.68 (br s, 1H), 8.46 (br s, 1H), 8.17 (d, J=8 Hz, 1H), 7.54 (d, J=8 Hz, 1H), 7.23 (dd, J=8, 8 Hz, 1H), 3.90 (s, 3H). 13C NMR (75.5 MHz, DMSO-d6) 178.63, 163.34, 138.72, 135.06, 127.16, 126.45, 124.27, 120.51, 113.22, 105.03, 52.59. IR (CHCl3, cm−1) 3450, 1731, 1654. MS (electrospray, m/z) 284/282 (M++1), 282/280 (M−−1). HRMS 281.9786 (M++1, calcd for C11H9NO3Br 281.9766). Anal. Calcd for C11H8BrNO3: C, 46.84; H, 2.86; N, 4.97. Found: C, 46.81; H, 2.72; N, 4.91.

reactant | Oxalyl chloride | 20.7 mmol, 1.8 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 7-bromoindole | 18.6 mmol, 3.65 g | BrC=1C=CC=C2C=CNC12 | C8H6BrN
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 41.8 mmol, 9.5 mL | CO | CH4O
solvent | Et2O | 100 mL | CCOCC | C4H10O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | (7-Bromo-1H-indol-3-yl)-oxo-acetic acid methyl ester | 0.61 g, 12% | COC(C(=O)C1=CNC2=C(C=CC=C12)Br)=O | C11H8BrNO3
